US06573267B2
A solution of 4.8 mL (0.062 mole) of potassium t-butoxide 1.OM in THF added dropwise to 10 g (0.048 mole) of (4-chlorophenyl)-1H-pyrrol-2-ylmethanone in 60 mL of THF. After stirring for 20 minutes, a solution of 5.6 mL (0.062 mole) of chloroethylmethyl ether in 40 mL of THF was added dropwise. The reaction mixture was refluxed for 72 h after which 5 mL of chloroethylmethyl ether was added and refluxing continued overnight. Another 5 mL of chloroethylmethyl ether was added with an additional 24 h of refluxing. The reaction was poured into water and extracted with Et2O. The organics were washed with water, brine and dried (MgSO4). The solvent was evaporated in vacuo to give 10.5 g (83%) of [(4-chlorophenyl)-1-ethylmethoxy-1H-pyrrol-2-yl]methanone. CIMS m/z 264 (MH+). 1H NMR (300 MHz, CDCl3) δ 7.75 (d, 2H); 7.45 (d, 2H); 7.1 (Ar, 1H); 6.75 (Ar, 1H) 6.2 (Ar, 1H) 4.6 (t, 2H); 3.75 (t, 2H); 3.3 (s, 3H).

reactant | potassium t-butoxide | 0.062 mole, 4.8 mL | CC(C)([O-])C.[K+]
reactant | (4-chlorophenyl)-1H-pyrrol-2-ylmethanone | 0.048 mole, 10 g | ClC1=CC=C(C=C1)C(=O)C=1NC=CC1 | C11H8ClNO
reactant | chloroethylmethyl ether | 0.062 mole, 5.6 mL | ClCCOC | C3H7ClO
reactant | chloroethylmethyl ether | 5 mL | ClCCOC | C3H7ClO
reactant | chloroethylmethyl ether | 5 mL | ClCCOC | C3H7ClO
reactant | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | [(4-chlorophenyl)-1-ethylmethoxy-1H-pyrrol-2-yl]methanone | 10.5 g, 83% | ClC1=CC=C(C=C1)C1=C(N(C=C1)OCCC)C=O | C14H14ClNO2
